US07662825B2
3-Chloro-N-(5-chloro-3-methoxy-2-pyrazinyl)-2-fluorobenzenesulphonamide
Prepared by the method of Example 1 (reaction performed at room temperature) using 5-chloro-3-methoxy-2-pyrazinamine (0.16 g) and 3-chloro-2-fluorobenzenesulphonyl chloride (0.27 g). Yield 0.22 g.

reactant | 5-chloro-3-methoxy-2-pyrazinamine | 0.16 g | ClC=1N=C(C(=NC1)N)OC | C5H6ClN3O
reactant | 3-chloro-2-fluorobenzenesulphonyl chloride | 0.27 g | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)F | C6H3Cl2FO2S
product | 3-Chloro-N-(5-chloro-3-methoxy-2-pyrazinyl)-2-fluorobenzenesulphonamide | ClC=1C(=C(C=CC1)S(=O)(=O)NC1=NC=C(N=C1OC)Cl)F | C11H8Cl2FN3O3S
